US04374248
3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
To a well stirred solution at -10° of 3-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide [prepared from the dihydrochloride of 2-{(5-methyl-1H-imidazol-4-yl)methylthio}ethylamine (2.73 g; 11.2 mmole) by the procedure of Step A of Example 1] was rapidly added a solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 3.41 g; 11.2 mmoles) [prepared according to the procedure described in South African Pat. No. 78/2129] in 35 ml of methanol. After stirring at -10° for 30 minutes, the solution was allowed to warm to ambient temperature. The reaction mixture was evaporated under reduced pressure and the residue was placed on 45 g of silica gel and chromatographed using 1 liter of methylene chloride-methanol (4:1). The appropriate fractions were combined and evaporated, and the residue (5.82 g) was placed on 80 g of aluminum oxide and chromatographed using a gradient elution of ethyl acetate-methanol. The appropriate fractions were combined, filtered through Celite and evaporated under high vacuum to yield the title compound (2.5 g) as an amorphous solid containing approximately 2/3 mole of ethyl acetate, as ascertained by the NMR spectrum (100 MHz) in d6 dimethyl sulfoxide.

reactant | 3-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide | CC1=C(N=CN1)CSCCNC1=NS(N=C1OC)(=O)=O | C10H15N5O3S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 2-{(5-methyl-1H-imidazol-4-yl)methylthio}ethylamine | 11.2 mmole, 2.73 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | methanol | 35 ml | CO | CH4O
product | 3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-{2-[(5-methyl-1H-imidazol-4-yl)methylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | 2.5 g | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1NCCSCC=1N=CNC1C)(=O)=O | C16H24N10O2S4
